data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2003,2225,[CH3:13][NH:14][C:15](=[O:16])[C:17]#[N+:18][C-:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[F:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:17]([C:15]([NH:14][CH3:13])=[O:16])=[N:18][C:19]3([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1,water,298.15,11.920881347221544,-55.30023947171121
4245,4856,[CH3:10][O:11][C:12](=[O:13])[C-:14]([O+:15]=[CH:16][C:17]#[N:18])[C:19](=[O:20])[O:21][CH3:22].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][CH:16]([C:17]#[N:18])[O:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[C:19](=[O:20])[O:21][CH3:22],water,298.15,7.748326220144405,-42.3681787475068
727,789,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([CH3:15])[N+:16]#[C:17][C:18]#[N:19].[CH3:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[CH3:1][C:2]12[C:3]([Br:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:17]([C:18]#[N:19])=[N:16][C:14]2([C:12]([NH:11][CH3:10])=[O:13])[CH3:15],water,298.15,18.26111587761728,-41.02950381612777
2663,2956,[CH3:17][NH:18][C:19](=[O:20])[c-:21]1[c:22](=[O:23])[o:24][c:25](-[c:26]2[cH:27][cH:28][cH:29][cH:30][cH:31]2)[n+:32]1[CH3:33].[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([Br:9])([C:10]([CH3:11])=[O:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([Br:9])([C:10]([CH3:11])=[O:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:25]1([c:26]3[cH:27][cH:28][cH:29][cH:30][cH:31]3)[O:24][C:22](=[O:23])[C:21]2([C:19]([NH:18][CH3:17])=[O:20])[N:32]1[CH3:33],water,298.15,22.10458705056693,-12.10177745798213
411,449,[CH3:16][C:17]([CH3:18])=[NH+:19][O-:20].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[O:9][CH3:10])[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7](=[O:8])[O:9][CH3:10])([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[O:20][NH:19][C:17]2([CH3:16])[CH3:18],water,298.15,29.249788300620764,8.73781914627628
623,683,[CH3:10][O:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[NH+:17][C-:18]([CH3:19])[C:20]#[N:21].[F:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[F:1][C:2]12[C:3]([Cl:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:14]([C:12]([O:11][CH3:10])=[O:13])([C:15]#[N:16])[NH:17][C:18]2([CH3:19])[C:20]#[N:21],water,298.15,22.18594391410247,-19.066303642997376
3242,3663,[CH2:10]=[NH+:11][C-:12]([CH3:13])[C:14]([CH3:15])=[O:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:12]([CH3:13])([C:14]([CH3:15])=[O:16])[NH:11][CH2:10]1,water,298.15,20.460632217264703,-19.2068608242822
2600,2882,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[CH2:25][CH2:26][CH2:27][CH2:28]1.[CH3:29][O:30][C:31](=[O:32])[N-:33][N+:34]#[C:35][C:36]#[N:37]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[c:10]2[c:11]([c:35]([C:36]#[N:37])[n:34][n:33]2[C:31]([O:30][CH3:29])=[O:32])[C:12]([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[CH2:25][CH2:26][CH2:27][CH2:28]1,water,298.15,15.450990146275275,-76.15160803077808
5132,5827,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15]([CH3:16])=[N+:17]([CH3:18])[C-:19]([C:20](=[O:21])[NH:22][CH3:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([CH3:16])[N:17]([CH3:18])[C:19]2([C:20](=[O:21])[NH:22][CH3:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,33.5056247618949,-26.69758104039904
1621,1792,[CH2:13]=[NH+:14][C-:15]([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[CH2:13][NH:14][C:15]3([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,12.26963395718488,-40.89952744230556
3560,4058,[CH3:10][N-:11][N+:12]([CH3:13])=[C:14]([CH3:15])[C:16]([CH3:17])=[O:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[N:11]([CH3:10])[N:12]([CH3:13])[C:14]1([CH3:15])[C:16]([CH3:17])=[O:18],water,298.15,23.294074599110623,-7.113237142527442
3322,3770,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][O:6][C:7](=[O:8])[CH-:9][NH+:10]=[CH:11][c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[CH:9]([C:7]([O:6][CH3:5])=[O:8])[NH:10][CH:11]1[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1,water,298.15,20.78856700053337,-20.698359631228787
